US04296029
Hexahydro-3-(3-methoxyphenyl)-1-methyl-2H-azepin-2-one
Diisopropylamine (152 g) in tetrahydrofuran (150 ml) was added over 30 minutes to 15% butyl lithium in hexane (641 g, 1.50 mole) under nitrogen at 20°-25° C. with cooling and the mixture stirred 30 minutes at room temperature. N-methylcaprolactam (63.6 g) in tetrahydrofuran (60 ml) was added over 5 minutes below 25° C. with cooling, the mixture was stirred for one hour at room temperature and then o-chloroanisole (71.3 g) was added over 20 minutes keeping the temperature below 30° C. The reaction mixture was stirred for two hours, water (2. l.) was added, the product was extracted into ethyl acetate (2×1 l.), the extracts were combined, washed with 2 N hydrochloric acid (1. l.) and water (500 ml) and evaporated under reduced pressure to give 27.1 g oil.

reactant | Diisopropylamine | 152 g | C(C)(C)NC(C)C | C6H15N
reactant | butyl lithium | C(CCC)[Li]
reactant | hexane | 1.50 mole, 641 g | CCCCCC | C6H14
reactant | N-methylcaprolactam | 63.6 g | CN1C(CCCCC1)=O | C7H13NO
reactant | o-chloroanisole | 71.3 g | ClC1=C(C=CC=C1)OC | C7H7ClO
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | Hexahydro-3-(3-methoxyphenyl)-1-methyl-2H-azepin-2-one | 27.1 g | COC=1C=C(C=CC1)C1C(N(CCCC1)C)=O | C14H19NO2
